data/oMe_Silver.jsonl
{"reaction_id": "NR-323_1-CCCC(C)C_2-C(C)(C)C_3-C_4-CCCC(C)C_5-C(C)(C)C_6-C(C)(C)C","level": "easy","name": "Wittig Rearrangement-[2,3]","reactants_smiles": ["C(CCCC(C)C)(C(C)(C)C)=C(C)C(CCCC(C)C)(C(C)(C)C)OCC(C)(C)C","CCCC[Li]"],"products_smiles": ["OC(C(C)(C)C)C(CCCC(C)C)(C(C)(C)C)C(C)=C(CCCC(C)C)(C(C)(C)C)"],"conditions": "1. Strong Base (e.g., n-BuLi); 2. H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CCCC(C)C)(C(C)(C)C)=C(C)C(CCCC(C)C)(C(C)(C)C)O[CH-]C(C)(C)C","step_weight": 0,"rationale": "n-BuLi, a strong base, abstracts the relatively acidic α-proton adjacent to oxygen due to inductive electron withdrawal and stabilization of the resulting alkoxide by oxygen."},{"step": 2,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "[O-]C(C(C)(C)C)C(CCCC(C)C)(C(C)(C)C)C(C)=C(CCCC(C)C)(C(C)(C)C)","step_weight": 0,"rationale": "The alkoxide undergoes a [2,3]-sigmatropic rearrangement, favored by orbital symmetry and relief of electron density through concerted bond reorganization, forming a more stable carbon–carbon bond adjacent to oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C(C)(C)C)C(CCCC(C)C)(C(C)(C)C)C(C)=C(CCCC(C)C)(C(C)(C)C)","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation in protic conditions."}],"description": "A strong base deprotonates the α-position to oxygen, generating an alkoxide that undergoes a concerted [2,3]-sigmatropic rearrangement. This rearrangement shifts the carbon framework, forming a new C–C bond. Subsequent protonation yields the rearranged alcohol product."}
{"reaction_id": "NR-212_1-OC_2-C_3-CC_4-CC_5-c1ccc(OC)cc1_6-c1ccccc1","level": "easy","name": "Paterno-Buchi Reaction","reactants_smiles": ["C(OC)(C)=C(CC)(CC)","O=C(c1ccc(OC)cc1)(c1ccccc1)"],"products_smiles": ["C1(OC)(C)C(c1ccc(OC)cc1)(c1ccccc1)OC1(CC)(CC)"],"conditions": "hv","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "C1(OC)(C)C(c1ccc(OC)cc1)(c1ccccc1)OC1(CC)(CC)","step_weight": 0,"rationale": "UV light excites the carbonyl to a reactive state, allowing radical coupling with the alkene's π-bond; oxygen's electronegativity and π-overlap stabilize the diradical intermediate, favoring oxetane ring closure."}],"description": "Under UV irradiation, the carbonyl compound is excited to a singlet or triplet state, enabling [2+2] photocycloaddition with the alkene to form an oxetane. The reaction proceeds via radical intermediates stabilized by the oxygen and alkene π-system."}
{"reaction_id": "NR-002_1-c1ccccc1_2-c1ccccc1","name": "Acid-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(=O)(c1ccccc1)Cc1ccccc1","C(=O)(c1ccccc1)Cc1ccccc1"],"products_smiles": ["C(=O)(c1ccccc1)C(c1ccccc1)C(O)(Cc1ccccc1)c1ccccc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=Cc1ccccc1)(O)c1ccccc1","rationale": "Acid catalysis protonates the carbonyl oxygen, increasing α-proton acidity and enabling enol formation via resonance stabilization of the resulting cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH+]=C(c1ccccc1)Cc1ccccc1","rationale": "Protonation of the second carbonyl oxygen enhances its electrophilicity by withdrawing electron density, making it more susceptible to nucleophilic attack."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(c1ccccc1)C(c1ccccc1)C(O)(Cc1ccccc1)c1ccccc1","rationale": "The nucleophilic enol π-system attacks the activated carbonyl carbon, favored by strong electrophilicity and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(c1ccccc1)C(c1ccccc1)C(O)(Cc1ccccc1)c1ccccc1","rationale": "Deprotonation restores the neutral β-hydroxyketone, driven by the stability of the carbonyl and alcohol functional groups under acidic workup."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, generating an electrophilic partner and a nucleophilic enol. The enol attacks the protonated carbonyl, forming a new C–C bond. Subsequent proton transfers regenerate the carbonyl and yield the β-hydroxyketone product."}
